US06984741B2
In a further process disclosed in EP-A 1 116 719, 5-nitro-2(3H)-benzofuranone is reacted in the presence of pentanoic acid and pentanoic anhydride to give 3-(1-hydroxypentylidene)-5-nitro-2(3H)-benzofuranone which reacts under acidic conditions to give 2-(n-butyl)-5-nitrobenzofuran. The disadvantage of this process is that 5-nitro-2(3H)-benzofuranone is used as precursor, which makes industrial application uneconomic.

reactant | 5-nitro-2(3H)-benzofuranone | [N+](=O)([O-])C=1C=CC2=C(CC(O2)=O)C1 | C8H5NO4
reactant | pentanoic acid | C(CCCC)(=O)O | C5H10O2
reactant | pentanoic anhydride | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
product | 3-(1-hydroxypentylidene)-5-nitro-2(3H)-benzofuranone | OC(CCCC)=C1C(OC2=C1C=C(C=C2)[N+](=O)[O-])=O | C13H13NO5
